US06129941
a) cis-2-Ethyl-3-(2-methoxyethyl)oxirane (3)
27.4 g of (Z)-1-methoxy-3-hexene were dissolved in dichloromethane (850 ml) and cooled to 10°. 62 g of ca 70% m-chloroperbenzoic acid corresponding to 1.05 eq., were added in portions. The mixture was allowed to react during 15 hours and was then transferred into an extraction funnel wherein it was washed with an aqueous solution of NaOH and then with water to neutrality. After separation and drying of the organic layer on Na2SO4, the residue was distilled over a 5 cm long Vigreux type column at 51-52°/1.5×103Pa to give 24.9 g (80%) of the desired compound in the form of a colourless liquid which presented the following analytical data:

reactant | (Z)-1-methoxy-3-hexene | 27.4 g | COCC\C=C/CC | C7H14O
reactant | m-chloroperbenzoic acid | 62 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 850 ml | ClCCl | CH2Cl2
product | cis-2-Ethyl-3-(2-methoxyethyl)oxirane | 24.9 g, 80% | C(C)[C@@H]1O[C@@H]1CCOC | C7H14O2
